US07101876B2
Ethyl 4-[3-oxo-4-[p-methoxybenzyl]-3,4-dihydro-2H-1,4-benzoxazin-7-yl]-3-phenylbutanoate, 26
To a suspension of CuI in dry tetrahydrofuran under argon are added 1.1 equivalents of tetramethylene diamine and the reaction mixture stirred at room temperature for 15 minutes. The solution is cooled to −78° C. and the Grignard reagent prepared from 7-bromomethyl-4-p-methoxybenzyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine is added and the reaction mixture stirred for 15 minutes. Then, 2 equivalents of trimethylsilyl chloride and a solution of ethyl cinnamate in tetrahydrofuran are added and the reaction mixture is stirred while the temperature is allowed to rise to −30° C. After 18 hours the reaction is poured into a solution of ammonium chloride and ammonium hydroxide and extracted with dichloromethane. The extracts are washed with water, dried over sodium sulfate, evaporated and the product isolated by flash chromatography.

reactant | tetramethylene diamine | 1.1 equivalents | NCCCCN | C4H12N2
reactant | 7-bromomethyl-4-p-methoxybenzyl-3-oxo-3,4-dihydro-2H-1,4-benzoxazine | BrCC1=CC2=C(N(C(CO2)=O)CC2=CC=C(C=C2)OC)C=C1 | C17H16BrNO3
reactant | trimethylsilyl chloride | 2 equivalents | C[Si](C)(C)Cl | C3H9ClSi
reactant | ethyl cinnamate | C(C=CC1=CC=CC=C1)(=O)OCC | C11H12O2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | CuI | [Cu]I
product | Ethyl 4-[3-oxo-4-[p-methoxybenzyl]-3,4-dihydro-2H-1,4-benzoxazin-7-yl]-3-phenylbutanoate | O=C1COC2=C(N1CC1=CC=C(C=C1)OC)C=CC(=C2)CC(CC(=O)OCC)C2=CC=CC=C2 | C28H29NO5
